Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower gi bleed

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE 
 
Date: ___
Time: 00:54
PCP: ___ ___ ___ 

 
The patient is a ___ with h/o breast cancer ___ s/p left 
mastectomy/chemo/radiation) and colon polyps ___ with repeat 
colonoscopy in ___ wnl and none since) who p/w 1 episode of 
BRBPR 3 days ago, which she described as "the toilet was filled 
with blood". She also reports maroon staining on her underwear 
intermittantly over the past ___ months. She reported finding 
blood on toiletpaper when wiping. She denies abdominal pain, 
n/v.

 
Upon review of OMR, she was seen by her hem/onc, ___ 
___, on ___, who reported she had not had a recurrance 
of her breast cancer for ___ years since diagnosis and no longer 
needed to be followed for it. 
 
 
In ER: 
VS: 97 117 167/99 18 99% ra 
Studies: HCT 40.2, EKG: NSR, LAD, TWI III, TWF avf, 1mm ST elev 
V1,V2. similar to old
anoscopy: small internal hemorroid, not bleeding, guiac +
labs: cbc,chem7: wnl

Fluids given: none
Meds given: protonix 40 mg IV x 1
Consults called: GI: admit with IV PPI just incase

VS prior to transfer to the floor: 91 16 164/97 94%RA

 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies visual changes, headache, dizziness, sinus 
tenderness, neck stiffness, rhinorrhea, congestion, sore throat 
or dysphagia. Denies chest pain or tightness, palpitations, 
orthopnea, dyspnea on exertion. Denies cough, shortness of 
breath, wheezes or pleuritic pain. Denies nausea, vomiting, 
heartburn, diarrhea, constipation, or abdominal pain. No 
dysuria, urinary frequency. Denies arthralgias or myalgias. 
Denies rashes. No increasing lower extremity swelling. No 
numbness/tingling or muscle weakness in extremities. No feelings 
of depression or anxiety. All other review of systems negative. 
 
 

 
Past Medical History:
left breast cancer ___ s/p left mastectomy chemo/radiation) 
and colon polyps ___ with repeat colonoscopy in ___ wnl and 
none since)

adverse reaction to lipitor
 
Social History:
___
Family History:
It is notable for her mother being diagnosed with 
breast cancer at ___.  A maternal aunt died at ___ from a brain
tumor.  There were 12 other siblings with no history of cancer. 
She has one sister who has undergone a double mastectomy at the
age of ___ due to unilateral breast cancer which was diagnosed
when she was premenopausal. She has one brother with a history 
of
melanoma, and a total of five siblings. 

 
Physical Exam:
VS: 97.8 170/85 96 20 95%RA, ___ pain
 
GEN: Alert and oriented to person, place and situation; no 
apparent distress
HEENT: no trauma, pupils round and reactive to light and 
accommodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: clear to auscultation bilaterally, no 
rales/crackles/rhonchi
GI: soft, non-tender, non-distended; no guarding/rebound
EXT: no clubbing/cyanosis/edema; 2+ distal pulses; peripheral IV 
present
NEURO: CN II-XII intact, ___ motor function globally, symmetric 
DTRs throughout
DERM: no lesions appreciated
 
 
 
 
Pertinent Results:
___ 06:34PM   GLUCOSE-114* UREA N-24* CREAT-0.8 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-26 ANION GAP-16
___ 06:34PM   estGFR-Using this
___ 06:34PM   WBC-7.9 RBC-4.71 HGB-14.2 HCT-40.2 MCV-85 
MCH-30.1 MCHC-35.3* RDW-13.8
___ 06:34PM   NEUTS-60.7 ___ MONOS-4.6 EOS-3.6 
BASOS-0.4
___ 06:34PM   PLT COUNT-___ h/o breast cancer, colonic polyps p/w BRBPR 3 days ago and 
now with maroon stains on underwear.

1. Rectal bleeding: Occurred 3 days PTA.  No episodes here.  Hct 
was stable x2.  The cause of her rectal bleeding may be 
hemorrhoids.  However, she is overdue for a colonoscopy.  She 
understands that she needs a colonoscopy in the next few weeks 
to rule out cancer.
- re check CBC at follow up
- SCHEDULE COLONOSCOPY WITH ___. ___

2. Hypertension: BP 160s/100s in house.  She was started on HCTZ 
25mg daily.  Her BP improved to the 140s at discharge
- Will chem 7 on follow up to make sure she is tolerating 
medication well

3. Breast cancer: Not active
 
Medications on Admission:
OTC:
aspirin prn pain
miconazole nitrate 2% creasm apply to area underneath breast BID 
to TID prn 
 
Discharge Medications:
1. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).
Disp:*30 Capsule(s)* Refills:*5*
2. Outpatient Lab Work
CBC, chem 7 panel at next follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal bleeding
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after an episode of rectal bleeding.  You exam 
was normal, and your blood work was stable.  There does not 
appear to be any significant bleeding at present.  However, you 
are overdue for a colonoscopy.  You will need to have one 
scheduled in the next few weeks to make sure their is no serious 
cause of bleeding in your colon, like colon cancer.  Please take 
a stool softener.

You were also found to have high blood pressure in the hospital, 
to 160/100.  You were started on Hydrochlorothiazide 25mg daily. 
 You will need to follow up as scheduled for a blood pressure 
and electrolyte check, as well as to check your blood counts
 
Followup Instructions:
___